US09079853B2
5-chloro-3-(2-hydroxy-4-methoxybenzyl)-1-(3-morpholinopropyl)-2-oxoindolin-3-yl benzoate
This compound was prepared in a similar manner to 3-(2-hydroxy-4-methoxybenzyl)-5-methyl-1-(4-methylpentyl)-2-oxoindolin-3-yl benzoate by reacting 5-chloro-1-(3-morpholinopropyl)-2-oxoindolin-3-yl benzoate with tert-butyl (2-(hydroxymethyl)-5-methoxyphenyl)carbonate. 1H-NMR δ 8.02 (dd, 2H), 7.58 (dd, 1H), 7.45 (dd, 2H), 7.26 (m, 1H), 7.22 (d, 1H), 6.87 (d, 1H), 6.51 (d, 1H), 6.42 (d, 1H), 6.26 (dd, 1H), 3.73-3.70 (m, 8H), 3.62 (m, 1H), 3.54-3.50 (2H), 3.39 (d, 1H), 2.37-2.15 (m, 6H), 1.78 (m, 2H). Calculated mass for C30H31ClN2O6, 550.19. Observed 551.1 (M+1).

reactant | 3-(2-hydroxy-4-methoxybenzyl)-5-methyl-1-(4-methylpentyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CCCC(C)C)=O)CC1=C(C=C(C=C1)OC)O | C30H33NO5
reactant | 5-chloro-1-(3-morpholinopropyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)Cl)CCCN1CCOCC1)=O | C22H23ClN2O4
product | 5-chloro-3-(2-hydroxy-4-methoxybenzyl)-1-(3-morpholinopropyl)-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)Cl)CCCN1CCOCC1)=O)CC1=C(C=C(C=C1)OC)O | C30H31ClN2O6
